US07241792B2
Step E: Preparation of 4-(5-Cyclopropyl-pent-3-enyl)-2,2-dimethyl-[1,3]dioxolane
To a solution of 4-(5-Cyclopropyl-pent-3-ynyl)-2,2-dimethyl-[1,3]dioxolane (1.92 mmol, 0.40 g) in hexane (5 mL) was added quinoline (0.192 mmol, 24.8 mg), followed by addition of 5% Pd on BaSO4 (0.384 mmol). Stirred at room temperature under H2 atmosphere for 4 hrs. TLC showed reaction completed. Filtered through celite and concentrated. Diluted with hexane, washed with NH4Cl, brine and dried over MgSO4. Silica gel chromatography (2˜7% EtOAc/Hexane) 4-(5-Cyclopropyl-pent-3-enyl)-2,2-dimethyl-[1,3]dioxolane as clear oil 1H NMR (400 MHz, CDCl3): δ 5.52–5.45 (m, 1H), 5.40–5.34 (m, 1H), 4.11–4.04 (m, 1H), 4.02 (dd, 1H, J1=8.0 Hz, J2=6.0 Hz), 3.51 (t, 1H, J=7.5 Hz), 2.17–2.04 (m, 2H), 1.97 (t, 2H, J=7.0 Hz), 1.74–1.66 (m, 1H), 1.58–1.49 (m, 1H), 1.41 (s, 3H), 1.35 (s, 3H), 0.73–0.68 (m, 1H), 0.43–0.39 (m, 2H), 0.08–0.04 (m, 2H).

reactant | 4-(5-Cyclopropyl-pent-3-ynyl)-2,2-dimethyl-[1,3]dioxolane | 1.92 mmol, 0.40 g | C1(CC1)CC#CCCC1OC(OC1)(C)C | C13H20O2
reactant | quinoline | 0.192 mmol, 24.8 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | hexane | 5 mL | CCCCCC | C6H14
catalyst | Pd | [Pd] | Pd
product | 4-(5-Cyclopropyl-pent-3-enyl)-2,2-dimethyl-[1,3]dioxolane | C1(CC1)CC=CCCC1OC(OC1)(C)C | C13H22O2
